US04267190
F. 2,3-Bis(4-fluorophenyl)-4-methyl-1H-pyrrole
Using the general procedure of N. Engel and W. Steglich, Angew. Chem. Int. Ed. Engl., 17, 676 (1978), to a slurry at room temperature of 28.7 g (0.1 mole) of 4-fluoro-N-[3-(4-fluorophenyl)-2-methyl-2-propenyl]benzamide in 100 ml toluene containing 1 ml DMF, stirred under nitrogen, with a dry ice condenser attached, was added dropwise a solution of 39.6 g (28.3 ml, 0.4 mole) of phosgene in 100 ml toluene. The mixture was warmed slightly with a heat gun, then stirred at room temperature overnight. The solution was concentrated by rotary evaporation to give a yellow oil. This was dissolved in 100 ml dry THF (small amount of insoluble solid removed by decanting the solution) and the solution was added dropwise to a cool (15°) solution of 33.5 g (0.3 mole) of potassium t-butoxide in 150 ml DMSO. The dark purple solution was stirred at ~20° C. for 1 hour, then was poured into 1 liter ice water. This was extracted with ether and the ether layers backwashed with water. The ether layer was dried and concentrated and the residue was chromatographed on 900 g of silica gel, eluting with hexane containing 10-40% toluene, to give, after recrystallization from methyl cyclohexane, 10.8 g (40%) of white product, m.p. 126°-7° C.

reactant | 4-fluoro-N-[3-(4-fluorophenyl)-2-methyl-2-propenyl]benzamide | 0.1 mole, 28.7 g | FC1=CC=C(C(=O)NCC(=CC2=CC=C(C=C2)F)C)C=C1 | C17H15F2NO
reactant | phosgene | 0.4 mole, 28.3 ml, 39.6 g | C(=O)(Cl)Cl | CCl2O
reactant | potassium t-butoxide | 0.3 mole, 33.5 g | CC(C)([O-])C.[K+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | DMSO | 150 ml | CS(=O)C | C2H6OS
product | 2,3-Bis(4-fluorophenyl)-4-methyl-1H-pyrrole | FC1=CC=C(C=C1)C=1NC=C(C1C1=CC=C(C=C1)F)C | C17H13F2N
